US05854234
2-imino-5-(trifluoromethyl)piperidine hydrochloride
The method of preparation of 2-imino-4-methylpiperidine acetate was used to convert 2-amino-3-chloro-5-(trifluoromethyl)pyridine to the title compound except platinum oxide was used as the catalyst. Product was triterated with ether to give a white solid. The analysis of the product was found to be consistent with the proposed structure. MH+=167; 1H NMR (D2 O): δ3.65-3.50 (m, 1H); 3.40-3.20 (m, 1H); 2.85-2.45 (m, 3H); 2.15-2.00 (m, 1H); 1.80-1.60 (m, 1H).

reactant | 2-imino-4-methylpiperidine acetate | C(C)(=O)O.N=C1NCCC(C1)C
reactant | 2-amino-3-chloro-5-(trifluoromethyl)pyridine | NC1=NC=C(C=C1Cl)C(F)(F)F | C6H4ClF3N2
product | 2-imino-5-(trifluoromethyl)piperidine hydrochloride | Cl.N=C1NCC(CC1)C(F)(F)F | InChI=1S/C6H9F3N2.ClH/c7-6(8,9)4-1-2-5(10)11-3-4;/h4H,1-3H2,(H2,10,11);1H
